US06727264B1
N-(3-{1-[4-(4-METHOXYPHENOXY)BENZYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure F and Scheme R using 4-(4-methoxyphenoxy)benzaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 459.2 (M+H)+.

reactant | 4-(4-methoxyphenoxy)benzaldehyde | COC1=CC=C(OC2=CC=C(C=O)C=C2)C=C1 | C14H12O3
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(3-{1-[4-(4-METHOXYPHENOXY)BENZYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | COC1=CC=C(OC2=CC=C(CN3CCC(CC3)C=3C=C(C=CC3)NC(C(C)C)=O)C=C2)C=C1 | C29H34N2O3
